US08252793B2
To a solution of 5-bromo-N-methylpyrimidine-2-carboxamide (0.14 g, 0.64 mmol) in DMF (5 mL) was added acrylic acid benzyl ester (0.13 g, 0.78 mmol), Pd(OAc)2 (14.3 mg), tri-o-tolyl phosphine (49 mg, 0.16 mmol), tributyl amine (0.48 g, 2.59 mmol). The reaction mixture was heated in microwave oven at 110° C. for 1 h. The reaction mixture was cooled to room temperature, partitioned in water (50 mL) and ethyl acetate (50 mL). Ethyl acetate layer was separated, dried (MgSO4), concentrated to give 3-(2-methylcarbamoyl-pyrimidin 5-yl)acrylic acid benzyl ester as a solid, this was washed with hexanes and dried to give the 0.122 g of the product. LCMS (APCI) 298 (M+)

reactant | 5-bromo-N-methylpyrimidine-2-carboxamide | 0.64 mmol, 0.14 g | BrC=1C=NC(=NC1)C(=O)NC | C6H6BrN3O
reactant | acrylic acid benzyl ester | 0.78 mmol, 0.13 g | C(C1=CC=CC=C1)OC(C=C)=O | C10H10O2
reactant | tri-o-tolyl phosphine | 0.16 mmol, 49 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tributyl amine | 2.59 mmol, 0.48 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 14.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2-methylcarbamoyl-pyrimidin 5-yl)acrylic acid benzyl ester | C(C1=CC=CC=C1)OC(C=CC=1C=NC(=NC1)C(NC)=O)=O | C16H15N3O3
